US09216964B2
To a solution of 2-methyl-5-nitronicotinic acid (364 mg, 2 mmol), aniline (186 mg, 2 mmol) and DIEA (774 mg, 6 mmol) in DMF (6 mL) is added HATU (798 mg, 2.1 mmol). The reaction mixture is stirred at room temperature for 2 hours. The solvent is removed by rotary evaporation and the crude product is purified by silica gel flash chromatography, eluted with 40% ethyl acetate in hexane to afford-methyl-5-nitro-N-phenylnicotinamide as a light green solid. MS m/z 258.1 (M+1).

reactant | 2-methyl-5-nitronicotinic acid | 2 mmol, 364 mg | CC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C7H6N2O4
reactant | aniline | 2 mmol, 186 mg | NC1=CC=CC=C1 | C6H7N
reactant | DIEA | 6 mmol, 774 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.1 mmol, 798 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | methyl-5-nitro-N-phenylnicotinamide | CC1=C(C(=O)NC2=CC=CC=C2)C=C(C=N1)[N+](=O)[O-] | C13H11N3O3
